US07893056B2
To a solution of benzylamine (10.0 mL, 91.6 mmol) in 95% MeOH-water (180 mL) was added methyl 3-methyl-2-butenoate (12.3 mL, 100.8 mmol). The solution was heated at 55° C. and stirred for 2 weeks. The solution was then cooled to room temperature, concentrated in vacuo, and the residue purified by gradient silica gel chromatography (0% to 100% EtOAc in hexanes; 1% Et3N) to provide methyl 3-methyl-3-[(phenylmethyl)amino]butanoate (5.5893 g, 28%) as a pale yellow oil. LCMS: (M+H)+: 222.1.

reactant | benzylamine | 91.6 mmol, 10.0 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | methyl 3-methyl-2-butenoate | 100.8 mmol, 12.3 mL | CC(=CC(=O)OC)C | C6H10O2
solvent | MeOH water | 180 mL | CO.O
product | methyl 3-methyl-3-[(phenylmethyl)amino]butanoate | 5.5893 g, 28% | CC(CC(=O)OC)(C)NCC1=CC=CC=C1 | C13H19NO2
